US03953486
A magnesium styphnate solution was prepared by the steps of adding 27.5 kg (dry weight) of styphnic acid to 70 liters of distilled water, warming the solution to 45°C, and then adding 11.3 Kg magnesium carbonate (heavy) in small quantities with stirring. The temperature was increased to 55°-60°C and stirring was continued until solution was complete. The solution was cooled, the volume adjusted to 110 liters, filtered and the pH was found to be above 7.2. An analysis of this solution showed that it contained 245g styphnate ion (as styphnic acid) per liter. 330 ml of nitric acid (sp gr 1.42) was then added with stirring.

reactant | styphnic acid | 27.5 kg | C1([N+](=O)[O-])=C(O)C([N+](=O)[O-])=CC([N+](=O)[O-])=C1O | C6H3N3O8
reactant | magnesium carbonate | 11.3 Kg | C([O-])([O-])=O.[Mg+2]
solvent | water | 70 liters | O | H2O
product | magnesium styphnate | C1([N+](=O)[O-])=C([O-])C([N+](=O)[O-])=CC([N+](=O)[O-])=C1[O-].[Mg+2] | InChI=1S/C6H3N3O8.Mg/c10-5-2(7(12)13)1-3(8(14)15)6(11)4(5)9(16)17;/h1,10-11H;/q;+2/p-2
